US06919331B2
The procedure for the preparation of [2-(3-cyclopropyl-2,4-dioxo-3,4-dihydro-2H-quinazolin-1-ylmethyl)-1-(4-hydroxy-butyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester was followed (reaction time 3 hrs.) starting from 2,2-dimethyl-propionic acid 4-[5-(tert-butoxycarbonylamino-methyl)-2-(3-vinyl-indazol-1-ylmethyl)-benzoimidazol-1-yl]-butyl ester (215 mg, 0.384 mmol). Purification by flash chromatography (eluent 3%, 4% methanol in DCM) afforded [1-(4-hydroxy-butyl)-2-(3-vinyl-indazol-1-ylmethyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester (136 mg, 74%) as a white foam:

reactant | [2-(3-cyclopropyl-2,4-dioxo-3,4-dihydro-2H-quinazolin-1-ylmethyl)-1-(4-hydroxy-butyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=CC2=C(N(C(=N2)CN2C(N(C(C3=CC=CC=C23)=O)C2CC2)=O)CCCCO)C=C1)=O | C29H35N5O5
reactant | 2,2-dimethyl-propionic acid 4-[5-(tert-butoxycarbonylamino-methyl)-2-(3-vinyl-indazol-1-ylmethyl)-benzoimidazol-1-yl]-butyl ester | 0.384 mmol, 215 mg | C(C)(C)(C)OC(=O)NCC1=CC2=C(N(C(=N2)CN2N=C(C3=CC=CC=C23)C=C)CCCCOC(C(C)(C)C)=O)C=C1 | C32H41N5O4
product | [1-(4-hydroxy-butyl)-2-(3-vinyl-indazol-1-ylmethyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester | 136 mg, 74% | C(C)(C)(C)OC(NCC1=CC2=C(N(C(=N2)CN2N=C(C3=CC=CC=C23)C=C)CCCCO)C=C1)=O | C27H33N5O3
